US06329399B1
Preparation of 2-Bromo-4′-Fluoro-acetophenone
In 25 ml of diethyl ether was dissolved 5.00 g (36.2 mmol) of p-fluoroacetophenone and while stirring the solution on an ice bath, 5.8 g (36.2 mmol) of bromine was dropped. After dropping, the mixture was stirred for 5 minutes and then the solvent was distilled off under reduced pressure. The residue thus obtained was purified by silica gel column chromatography (chloroform 100%). The results of NMR measurement revealed that it contained the target compound, and in addition, the raw materials and a dibromo form as a side product. Yield after adjustment was 6.21 g and % yield was 79.0%.

reactant | p-fluoroacetophenone | 36.2 mmol, 5.00 g | FC1=CC=C(C=C1)C(C)=O | C8H7FO
reactant | bromine | 36.2 mmol, 5.8 g | BrBr | Br2
solvent | diethyl ether | 25 ml | C(C)OCC | C4H10O
product | 2-Bromo-4′-Fluoro-acetophenone | yield was 79.0% | BrCC(=O)C1=CC=C(C=C1)F | C8H6BrFO
